US07244851B2
A suspension of α-aminophenylacetonitrile hydrochloride (3.19 g, 18.9 mmol) and Fmoc-isothiocyanate (5.31 g, 18.9 mmol) in DCM was treated with ethyldiisopropylamine (3.62 ml, 20.8 mmol) at 0° C. for 1 hr and then at ambient temperature for 3 hr. The mixture was poured into saturated aqueous sodium bicarbonate and extracted three times into ethyl acetate. The combined organic phases were washed with water and brine, and dried over sodium sulfate and concentrated in vacuo. Flash chromatography on silica gel (ethyl acetate/hexanes) yielded 5-amino-2-(Fmoc-amino)-4-phenylthiazole (3.75 g, 48%).

reactant | α-aminophenylacetonitrile hydrochloride | 18.9 mmol, 3.19 g | Cl.NC(C#N)C1=CC=CC=C1
reactant | Fmoc-isothiocyanate | 18.9 mmol, 5.31 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N=C=S | C16H11NO2S
reactant | ethyldiisopropylamine | 20.8 mmol, 3.62 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-amino-2-(Fmoc-amino)-4-phenylthiazole | 3.75 g, 48% | NC1=C(N=C(S1)NC(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12)C1=CC=CC=C1 | C24H19N3O2S
